US09284315B2
(4) Preparation of tert-butyl 4-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate
tert-butyl 4-(4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate (0.223 g, 0.416 mmol) was dissolved in 20 mL of ethanol, added 0.3 mL of a solution of methylamine in ethanol (concentration 27%), and stirred at room temperature for 24 h. After confirming a disappearance of the raw materials by LC-MS, to the system added sodium borohydride (0.09 g, 2.38 mmol), continued stirring at room temperature for 18 h. The reaction was quenched with a saturated aqueous solution of sodium carbonate, concentrated under reduced pressure to remove ethanol, extracted with 100 mL dichloromethane. The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure to give 0.193 g of a solid.

reactant | tert-butyl 4-(4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate | 0.416 mmol, 0.223 g | ClC=1N=C2C(=C(C=NC2=CC1)C=O)NC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C25H25ClF3N5O3
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 2.38 mmol, 0.09 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl 4-(4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate | 0.193 g | ClC=1N=C2C(=C(C=NC2=CC1)CNC)NC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C26H30ClF3N6O2
